### PR TITLE
Erdős Problem 160

### LINKED ISSUE #395: Erdős Problem 160
### What is the conjecture
    
https://www.erdosproblems.com/160

  Let $h(N)$ be the smallest $k$ such that $\\{1,\ldots,N\\}$ can be coloured with $k$ colours so that every four-term arithmetic progression must contain at least three distinct colours. Estimate $h(N)$.

Status: open

### Prerequisites needed
One needs to make more concrete what "Estimate $h(N)$" should mean.

### PR DESCRIPTION
**Pull request by mo271**
fixes #395

### CODE REVIEW

File: FormalConjectures/ErdosProblems/160.lean [hunk 1]
```diff
@@ -0,0 +1,77 @@
...
+theorem erdos_160.known_lower :
+    ∃ c > 0, (fun (n : ℕ) => exp (c * log (n : ℝ) ^ ((1 : ℝ) / 12)))
+    =O[atTop] fun n => (erdos_160.h n : ℝ):= by
+  sorry
+
+/--
+Estimate $h(n)$ by finding a better upper bound.
+-/
+@[category research open, AMS 5 51]
+theorem erdos_160.better_upper : ∃ upper_bound : ℕ → ℝ, upper_bound = answer(sorry) ∧
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/160.lean]: In order to avoid using an existential, you could possibly use a `let` with value `answers(sorry)`.

**Review by Paul-Lez — COMMENTED** [review]
Cool stuff!

File: FormalConjectures/ErdosProblems/160.lean (hunk 1 above)
Comment (mo271) [reply FormalConjectures/ErdosProblems/160.lean]: done

File: FormalConjectures/ErdosProblems/160.lean [hunk 2]
```diff
@@ -0,0 +1,79 @@
...
+  sorry
+
+/--
+Estimate $h(n)$ by finding a better lower bound.
+-/
+@[category research open, AMS 5 51]
+theorem erdos_160.better_lower:
+    let lower_bound : ℕ → ℝ := answer(sorry)
+    (lower_bound =O[atTop] fun n => (erdos_160.h n : ℝ)) ∧
+    ∀ c > 0, (fun (n : ℕ) => exp (c * log (n : ℝ) ^ ((1 : ℝ) / 12))) =o[atTop] lower_bound := by
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/160.lean]: Maybe here it would be better to restrict to those `c` that satisfy `(fun (n : ℕ) => exp (c * log (n : ℝ) ^ ((1 : ℝ) / 12)))
    =O[atTop] fun n => (erdos_160.h n : ℝ)` ?

**Review by Paul-Lez — APPROVED** [review]
One minor comment, LGTM otherwise!

File: FormalConjectures/ErdosProblems/160.lean (hunk 2 above)
Comment (mo271) [reply FormalConjectures/ErdosProblems/160.lean]: ok, restricting to those `c`s now.

File: FormalConjectures/ErdosProblems/160.lean [hunk 3]
```diff
@@ -0,0 +1,82 @@
...
+Estimate $h(n)$ by finding a better lower bound.
+-/
+@[category research open, AMS 5 51]
+theorem erdos_160.better_lower:
+    let lower_bound : ℕ → ℝ := answer(sorry)
+    (lower_bound =O[atTop] fun n => (erdos_160.h n : ℝ)) ∧
+    ∀ c > 0,
+    (fun (n : ℕ) => exp (c * log n  ^ ((1 : ℝ) / 12))) =O[atTop] (fun n => (erdos_160.h n : ℝ)) →
+    ∀ c > 0, (fun (n : ℕ) => exp (c * log n ^ ((1 : ℝ) / 12))) =o[atTop] lower_bound := by
+
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/160.lean]: I think the second quantification over `c` here is a typo?
```suggestion
    (fun (n : ℕ) => exp (c * log n  ^ ((1 : ℝ) / 12))) =O[atTop] (fun n => (erdos_160.h n : ℝ)) →
    (fun (n : ℕ) => exp (c * log n ^ ((1 : ℝ) / 12))) =o[atTop] lower_bound := by
```

File: FormalConjectures/ErdosProblems/160.lean [hunk 4]
```diff
@@ -0,0 +1,82 @@
...
+  sorry
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/160.lean]:
```suggestion
  sorry
  
end Erdos160
```

File: FormalConjectures/ErdosProblems/160.lean [hunk 5]
```diff
@@ -0,0 +1,82 @@
...
+-/
+
+import FormalConjectures.Util.ProblemImports
+
+/-!
+# Erdős Problem 160
+
+*Reference:* [erdosproblems.com/160](https://www.erdosproblems.com/160)
+-/
+
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/160.lean:24]:
```suggestion

namespace Erdos160

```

File: FormalConjectures/ErdosProblems/160.lean (hunk 3 above)
Comment (mo271) [reply FormalConjectures/ErdosProblems/160.lean]: yes, good catch
